US05658933
5-(((4-n-Decylphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylic acid N-(ethoxycarbonylmethyl)amide was prepared from 5-(((-4-n-decylphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylic acid (m.p. 160° C., decomp.; from aqueous hydrochloric acid/THF) and glycine ethyl ester hydrochloride, m.p. 155°-157° C. (from diisopropyl ether).

reactant | 5-(((-4-n-decylphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylic acid | C(CCCCCCCCC)C1=CC=C(C=C1)NC(=O)C=1C=C(C(=NC1)C(=O)O)OC | C24H32N2O4
reactant | glycine ethyl ester hydrochloride | Cl.C(C)OC(CN)=O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 5-(((4-n-Decylphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylic acid N-(ethoxycarbonylmethyl)amide | C(C)OC(=O)CNC(=O)C1=NC=C(C=C1OC)C(=O)NC1=CC=C(C=C1)CCCCCCCCCC | C28H39N3O5
